US06369088B2
5-Methoxy-3-(4-aminophenyl)-3H-(1,3,4)oxadiazol-2-one
A mixture consisting of 1.4 g of 5-methoxy-3-(4-nitrophenyl)-3H-(1,3,4)oxadiazol-2-one, 0.5 g of Pd/C and 20ml of methanol was hydrogenated under atmospheric pressure at room temperature until the calculated amount of hydrogen had been taken up. The catalyst was then filtered off, and the solution was concentrated in vacuo. The remaining semisolid residue was stirred with isopropanol and filtered off with suction.

reactant | 5-methoxy-3-(4-nitrophenyl)-3H-(1,3,4)oxadiazol-2-one | 1.4 g | COC1=NN(C(O1)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O5
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | methanol | 20ml | CO | CH4O
product | 5-Methoxy-3-(4-aminophenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC=C(C=C1)N | C9H9N3O3
